Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Inability to ambulate
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Per admitting physician:
___ man with history of HTN, DMII,
BPH s/p indwelling Foley and recent admission for 
UTI/prostatitis
now presenting with weakness.

Per review of records, patient was recently admitted from
___ for fever, found to have Enterobacter UTI, possible
prostatitis treated with 6 weeks of ciprofloxacin. Patient also
with right ankle pain, found to have exposed hardware and
presumed osteomyelitis with wound cultures growing CoNS. He was
initially discharged on vanc/cipro/flagyl however as CoNS 
isolate
resulted susceptible to levofloxacin was changed to levofloxacin
plus metronidazole on ___. Per review of outpatient ID notes, 
he
is planned to continue levofloxacin/Flagyl for another 3 weeks
beyond ___ to complete 6-week course.   

The patient was discharged from rehab today and said to be
independent with transfers and contact guard with ambulation.
However, per ED notes, his son ___ was concerned and said that
patient was unable to transfer out of chair and insisted that
patient return to rehab. Patient sent to the ED for evaluation
with plan for patient to return to facility on ___ when he 
could
be re-evaluated. Per patient, he has been weak since his last
hospitalization. He has significant pain in his left thigh that
prevents him from stretching his leg. He also continues to have
pain in his right foot. He denies fevers and chills, back pain.
States that he has not been eating or drinking much for several
weeks since leaving the hospital. 

In the ED, initial vitals: 98.0 72 100/54 18 94% RA 
Exam notable for: Extremities: significant pain to palpation of 
L
thigh and right foot. R foot with small poorly healing ulcer on
the R lateral side of ankle. LUE contracted, and LLE extremity
contracted, but able to be stretched out. 
Labs notable for: WBC 7, Hb 10.8, Na 133; UA with bacteria, >182
WBC, >182 RBCs, lg leuks, neg nitrites
Imaging notable for: NCHCT, CT A/P, plain films right lower
extremity
Patient given: 1L NS

On arrival to the floor, the patient reports right foot pain, 
but
says it is mild. Reports that he has had a poor appetite. Denies
any fevers. No other complaints.

 
Past Medical History:
DMII
HTN
BPH/urinary retention
Recurrent UTI
Glaucoma
___: Prostatitis complicated by bacteremia resulting in R 
ankle osteomyelitis, s/p 6 weeks of ABx

 
Social History:
___
Family History:
Unable to obtain due to mental status.
 
Physical Exam:
ADMISSION:
=========
VITALS: 97.4 146/81 101 16 98 RA 
GENERAL: Alert and in no apparent distress, cachectic appearing
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel
sounds present. 
GU: No suprapubic fullness or tenderness to palpation; Foley in
place
MSK: Neck supple, left leg contracted
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented x2, face symmetric, gaze conjugate with
EOMI, speech fluent, unable to assess strength
PSYCH: pleasant, appropriate affect

DISCHARGE:
==========
 
VITALS: 97.5 PO 117 / 62  Lying 86 18 100 Ra  
GENERAL: Thin elderly man in NAD
ENT: Poor dentition
CV: Regular with frequent premature beats, S1 S2 WNL, II/VI
systolic murmur at apex
RESP: Clear bilaterally, though limited cooperation
GI: Abdomen soft and nontender, nondistended
GU:  Foley catheter in place, multiple scrotal excoriations
wrapped in xeroform
MSK:  L leg contracted such that L ankle abuts R buttock; able 
to
be straightened out passively to ~90 degrees on exam.  Declined 
R
ankle exam but incision appears dry and intact.
SKIN:  No visible rash, and patient declined repositioning to
examine his sacrum, but in discussion with RN, he has an
unstageable pressure ulcer on L ischium and 1.5x1cm unstageable
pressure ulcer on coccyx.
NEURO: Alert, AOx2 (person, place, conversant), tongue midline,
face symmetric, L hip flexed to chest but able to extend 
actively
to ~90deg; holds L arm and wrist in flexion with increased tone
L>R; moves RUE and RLE spontaneously, sensation intact
throughout, gait not tested 
PSYCH: flat affect

 
Pertinent Results:
ADMISSION:
=========
___ 10:29AM BLOOD WBC-6.2 RBC-3.70* Hgb-10.4* Hct-32.4* 
MCV-88 MCH-28.1 MCHC-32.1 RDW-17.0* RDWSD-54.8* Plt ___
___ 10:29AM BLOOD Glucose-130* UreaN-12 Creat-1.0 Na-137 
K-4.1 Cl-103 HCO3-21* AnGap-13

OTHER PERTINENT LABS:
=====================

Trop 0.09 -> 0.12 -> 0.13 -> 0.14 x 3 -> 0.13
CK 469 (from 133) -> 155
CRP 19 (from 90.8 on ___
ESR 77 (from 130 on ___
Lipase 54
TSH 4.8, FT4 1.5
B12 520
A1c 5%
Lipids WNL
RPR: non-reactive

___ 02:15AM BLOOD Lipase-54
___ 07:30AM BLOOD Albumin-2.8* Calcium-8.8 Phos-2.9 Mg-1.7
___ 11:30PM BLOOD Calcium-8.7 Phos-2.8 Mg-2.2 Cholest-113
___ 10:45AM BLOOD VitB12-520
___ 11:30PM BLOOD %HbA1c-5.0 eAG-97
___ 11:30PM BLOOD Triglyc-103 HDL-44 CHOL/HD-2.6 LDLcalc-48
___ 10:45AM BLOOD TSH-4.8*
___ 10:45AM BLOOD Free T4-1.5
___ 07:25AM BLOOD CRP-29.6*

MICRO AND OTHER STUDIES:
========================

UA (___): lg bld, lg ___, neg nit, >182 RBCs, >182 WBCs, few 
bact
Ucx (___): mixed flora

Tele (___): 7 beats NSVT (00:22) and 9 beats NSVT (08:20)
Tele (___): 5 beats NSVT
Tele (___): No events
Tele (___): No events
Tele (___): 5 beats NSVT
Tele (___): Three episodes of NSVT (5 beats at 02:40, 5 beats
at 11:07, and 12 beats at 19:20)

EKG (___): NSR at 94 bpm w/PACs, nl axis, PR 142, QRS 78, QTC
383, no clear ischemic ST changes

IMAGING:
========

L ankle X-ray (___):
No evidence for fracture or dislocation.

MRI C-spine (___):
1.  Multilevel, multifactorial degenerative changes throughout
the cervical spine, more significant from C3-C4 through C7-T1
levels. 
2.  Focal area of T2 high signal intensity identified within the
cervical spinal cord on the right at the level of C4 suggestive
of chronic myelopathic change. 
3.  Significant central spinal canal narrowing is noted at 
C3-C4,
C4-C5 and C5-C6 levels. 
4.  Right paracentral disc protrusion is identified at C7-T1
level, apparently impinging the exiting nerve root of C8 on the
right. 
  
EEG (___):
This is an abnormal awake and asleep video EEG due to 
generalized
slowing of background indicative of diffuse, corticaly
predominant, encephalopathy which is nonspecific as to etiology
(metabolic vs medication effect). There is no focal slowing nor
any epileptiform discharges or electrographic seizures. Of note
is premature ventricular complexes as detailed above. 

TTE (___):
Nl EF with mild symmetric LVH. Severe AS ___ <1.0) and mild AI.
Mildly dilated RV with mild apical free wall hypokinesis. Mild 
to
mod MR. ___ TR. ___. Small circumferential pericardial
effusion without e/o tamponade.
 
MRI brain w/o cont (___):
1. No evidence of mass, hemorrhage or infarction. 
2. Chronic findings include global parenchymal volume loss and
moderate changes of chronic white matter microangiopathy. 
3. Mild frontal and maxillary sinus mucosal thickening with a
left maxillary sinus air-fluid, which although nonspecific can 
be
seen in acute sinusitis. 

CXR (___):
Comparison to ___.  Moderate cardiomegaly persists. 
Small left pleural effusion with relatively extensive left
retrocardiac atelectasis.  The medial aspect of the right lung
basis shows minimally increased radiodensity with subtle air
bronchograms.  In the appropriate clinical setting the 
presence of developing pneumonia is possible.  No pulmonary
edema.  No pneumothorax.  A previous rounded opacity projecting
over the fourth right rib is no longer visualized. 

CXR (___):
1.  Stable retrocardiac atelectasis. 
2.  9 mm new round lesion in the upper right lobe likely 
external
to the patient but correlate on next chest x-ray. 

KUB (___):
Gaseous distension of the stomach and small and large bowel 
loops
without abnormal dilatation is similar to most recent prior ___ abdominal radiograph.  No evidence of high-grade
bowel obstruction. 

LENIs (___):
Limited evaluation of the left lower extremity due to chronic
contracture resulting in nonvisualization of the left popliteal
vein.  Within this limitation, no evidence of deep venous
thrombosis in the right or left lower extremity veins. 

NCHCT (___):
No acute intracranial hemorrhage. No acute calvarial fracture. 
Periventricular white matter hypodensity likely sequela of
chronic microangiopathy. 

CT A/P w/cont (___):
1. No acute findings in the abdomen or pelvis. 
2. New small left pleural effusion with overlying compressive
atelectasis. 
3. 0.8 cm sub solid nodule in the right middle lobe is new from
prior, and may represent infectious foci. 
4. Ectatic infrarenal abdominal aorta as on prior.  Left 
external
iliac artery aneurysm is unchanged. 
5. Massively enlarged prostate, as on prior. 

L femur X-ray (___):
No acute findings on this limited exam.

R ankle X-ray (___):
Post removal of fixation hardware from the distal fibula.  No
acute findings.

TTE (___):
Normal EF, mild AI, mild to moderate AS, mild to
moderate mitral regurgitation, moderate ___ with mild to
moderate TR and normal RV. 

DISCHARGE:
==========

___ 06:00AM BLOOD WBC-7.3 RBC-3.40* Hgb-9.3* Hct-29.8* 
MCV-88 MCH-27.4 MCHC-31.2* RDW-17.5* RDWSD-56.2* Plt ___
___ 07:55AM BLOOD Glucose-116* UreaN-17 Creat-1.0 Na-146 
K-4.2 Cl-112* HCO3-27 AnGap-7*
___ 07:55AM BLOOD Calcium-8.1* Phos-3.4 Mg-1.___ man with HTN, DMII, severe AS ___ <1.0), BPH 
requiring intermittent Foley, recent admission ___ for 
prostatis and R ankle infection s/p hardware infection (on 
levofloxacin/flagyl) presenting with L hip contracture and 
inability to ambulate after discharge from ___ rehab, with 
course c/b mild encephalopathy, NSTEMI/NSVT, and urinary 
retention.

# Inability to ambulate:
# LUE and LLE flexion contractures:
# Chronic myelopathy of C4 on right:
# Encephalopathy in setting of cognitive decline:
# Delirium:
Patient presented with L leg and "whole body" pain with 
inability to ambulate after recent discharge from rehab. On 
exam, LUE and LLE held in flexion. Per son, L arm flexion may be 
chronic, but L leg flexion developed over the last few weeks and 
inability to ambulate is new (confirmed by ___ here, who last saw 
him ___. Mental status was noted to wax and wane, with 
patient intermittently conversant and at other times distressed 
and seemingly confused, likely component of delirium. This has 
occurred in the setting of progressive confusion/behavioral 
changes over the last year per the patient's son. ___ and 
orthopedics were consulted. Etiology of L hip flexion 
contracture remains unclear but was ultimately thought to be 
behavioral given fluctuating exam in the setting of a possible 
neurodegenerative process (in particular, corticobasal 
degeneration or FTD given MRI brain showing global atrophy). No 
e/o acute ischemic infarct on MRI, and EEG c/w encephalopathy
without seizures. NCHCT was negative. TSH, B12, RPR WNL for 
reversible encephalopathy/neuropathy. An isolated MSK etiology 
was thought less likely in the setting of cognitive decline and 
fluctuating exam. MRI C-spine revealed significant degenerative 
changes and likely chronic myelopathic changes on the R at C4, 
unlikely to explain his L-sided findings. CT A/P showed no acute 
pelvic fracture and L femur and L ankle plain films were 
negative. Orthopedics recommended aggressive ___ and knee 
immobilizer in extension (however, patient did not really use 
this).  Patient's exam continued to fluctuate, and he was 
intermittently able to fully extend the leg but not weight-bear. 
 He was treated with Tylenol, lidocaine patch, and low-dose 
baclofen as needed for pain and spasticity.  Because he was 
still an inpatient and scheduled for a ___ clinic 
evaluation on ___, neurology performed a limited 
neuropsych evauation at the bedside, the determination of which 
was that corticobasal degeneration was unlikely, and that 
further assessment as an outpatient was warranted.  He will 
require fall and delirium precautions, and STRONG consideration 
of 24-hour care after discharge from rehab given declining 
functional status at home.

# Chest pain:
# NSTEMI:
# NSVT:
# Severe AS:
Patient developed chest pain and N/V on ___ with new troponin 
elevation 0.09, which peaked at 0.14. Telemetry revealed 
intermittent, brief runs of asymptomatic NSVT. Seen by At___ 
cardiology on ___, who thought presentation more consistent 
with demand ischemia in setting of likely CAD than with ACS 
given character of pain and nl EKG. TTE performed ___ showed 
severe AS ___ <1.0, progressed from moderate AS ___, likely 
contributing to demand ischemia. However, TTE also revealed mild 
apical free wall hypokinesis not reported on TTE ___, 
possibly consistent with a missed MI. He was re-evaluated by 
At___ cardiology on ___ and was not thought to be a candidate 
for TAVR/SAVR or cardiac cath given his poor functional status.  
It was recommended that he follow-up with cardiology as an 
outpatient if his functional status improves for consideration 
of stress testing and possible TAVR. Metoprolol was initiated 
for PVC/NSVT suppression, as was atorvastatin 80mg daily. Home 
aspirin was continued.  Will need cardiology referral through 
his PCP after discharge.

# ___:
# Hyperkalemia:
Cr peaked at 1.5 on ___ from 1.1 on admission with associated 
K 5.5. Likely pre-renal and resolved with IVFs. Home lisinopril 
was held given normotension and can be resumed as needed at 
rehab.  Cr was 1.0 at discharge.

# Normocytic anemia: 
B/l Hgb appears to be ___. Stable without evidence of active
bleeding. Hgb at discharge was 9.3.

# R ankle infection s/p hardware removal:
# Osteomyelitis:
Patient with recent admission for R ankle pain c/f osteo, s/p 
hardware removal ___. Operative cultures isolated CoNS and 
mixed anaerobes. He was initially discharged on 
vanc/cipro/flagyl; however as CoNS isolate resulted susceptible 
to levofloxacin, he was changed to levofloxacin plus 
metronidazole on ___. R ankle unconcerning per ortho. ESR/CRP 
downtrending. Levofloxacin/flagyl were continued, with plan for 
6 week course ___, but ID note from ___ 
suggests continuation through ID f/u with Dr. ___ on ___.  
As the patient was still an inpatient during that appointment, 
in discussion with ID, as he was clinically stable, his 
antibiotics were stopped.  New baseline CRP at the time of 
discharge was 29 (down from ___ at the time of his infection). 


# BPH s/p Foley 
# Prostatitis vs Enterobacter UTI:
Patient recently admitted ___ for fever and was found to 
have a positive UA with Enterobacter isolated in urine culture 
and report of prostate tenderness on exam. He was initially 
treated with cipro, transitioned to levofloxacin (given SSTI as 
above) with plan for 6 week course. UTI this admission showed 
only mixed flora.  Levofloxacin was continued at renal dosing 
given plan for 6-week course ___, but per ID 
recommendations this was continued through ___. Mr. ___ 
failed a voiding trial on ___ and again on ___.  
Urology was consulted and recommended discharge with Foley with 
outpatient voiding trial with Dr. ___ (Atrius) on ___. 
Home tamsulosin 0.4 mg daily and finasteride 5 mg daily were 
continued.

# Urethral ulcer:
# Scrotal ulcerations:
# Unstageable L ischial and coccyx ulcers:
Urethral ulcer is chronic. Scrotal ulcerations and unstageable 
ischial and coccyx ulcers were noted this admission in setting 
of immobility. The nursing wound care team was consulted and 
made recommendations for wound care.  Foley was continued for 
retention as above.  Meticulous attention to skin care will be 
required at the rehab.

CHRONIC/STABLE PROBLEMS:

# HTN: 
Normotensive off home lisinopril and amlodipine, which were held 
at discharge.  

# DMII: 
A1c 5.0. Not on anti-hyperglycemic medications. He was treated 
with a diabetic diet and insulin sliding scale while 
hospitalized.

# Glaucoma:
Continued home eye drops.

TRANSITIONAL ISSUES:
====================

[ ] resume lisinopril and amlodipine as needed
[ ] f/u with outpatient neuropsych evaluation in ___ months
[ ] voiding trial with Dr. ___ ___
[ ] PCP referral to cardiology for consideration of stress test, 
f/u of AS if within goals of care
[ ] If contractures are ultimately determined to be solely 
behavioral in etiology, he may not benefit from baclofen (or 
other interventions, such as botox) to reduce
spasticity and these should be avoided.  
[ ] Meticulous attention to skin care will be required at the 
rehab.

___ is clinically stable for discharge today.  On the 
day of discharge, greater than 30 minutes were spent on the 
planning, coordination, and communication of the discharge plan. 
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Bacitracin Ointment 1 Appl TP BID Urethral ulcer 
4. Finasteride 5 mg PO DAILY 
5. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
6. Lisinopril 40 mg PO DAILY 
7. Tamsulosin 0.4 mg PO QHS 
8. Timolol Maleate 0.25% 1 DROP BOTH EYES BID 
9. Levofloxacin 750 mg PO Q24H 
10. MetroNIDAZOLE 500 mg PO TID 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID  
2.  Atorvastatin 80 mg PO QPM  
3.  Baclofen 10 mg PO TID PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
4.  Docusate Sodium 100 mg PO BID 
hold for loose stool  
5.  Metoprolol Succinate XL 25 mg PO DAILY  
6.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line  
7.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
8.  Aspirin 81 mg PO DAILY  
9.  Bacitracin Ointment 1 Appl TP BID Urethral ulcer  
10.  Finasteride 5 mg PO DAILY  
11.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
12.  Tamsulosin 0.4 mg PO QHS  
13.  Timolol Maleate 0.25% 1 DROP BOTH EYES BID  
14. HELD- amLODIPine 5 mg PO DAILY  This medication was held. Do 
not restart amLODIPine until instructed by your doctor
15. HELD- Lisinopril 40 mg PO DAILY  This medication was held. 
Do not restart Lisinopril until instructed by your doctor

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Inability to ambulate / L hip contracture
Osteomyelitis
Prostatitis 
NSTEMI
Severe AS
HTN
DM2
BPH

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive, but waxes and 
wanes
Activity Status: Bedbound. Was able to stand briefly with ___ 
prior to discharge.

 
Discharge Instructions:
Dear Mr. ___,

It was our pleasure caring for you at ___ 
___.  You were admitted to the hospital for inability 
to walk.  Our neurologists and orthopedic surgeons evaluated 
you, and a thorough workup revealed no clear explanation for 
this.  You are being referred to a neurologist who will continue 
to investigate possible causes, but in the interim it will be 
important to continue aggressive physical therapy at rehab.

While you were here you were noted to have mild injury to your 
heart and were started on a medicine to reduce your heart's 
workload.  You were seen by the heart doctors who recommended 
that you follow-up with them in the clinic after you leave 
rehab.

In addition, your antibiotics for your right ankle infection and 
for prostatitis were stopped after you finished your 6 week 
course.  

Lastly, you were noted to have difficulty urinating and required 
catheter to be placed in your bladder.  You are being discharged 
with this catheter in place and will see Dr. ___ in clinic on 
___ for an attempt at removal.

With best wishes for a speedy recovery,
___ Medicine
 
Followup Instructions:
___